US05232921
2-(2-Morpholinoethylamino)-4,5-dihydronaphtho[1,2-d]thiazole dihydrochloride (SR 44273 A)
3.66 g of N-benzoyl-N'-(morpholinoethyl)thiourea are refluxed in 17.5 ml of a 2.5N solution of sodium hydroxide under a nitrogen atmosphere for 15 minutes. After cooling, concentrated hydrochloric acid is added until the pH is 7. A solution of 3 g of 2-bromo-1,2,3,4-tetrahydronaphthalen-1-one in 20 ml of ethanol is added and the mixture is refluxed for 1 hour. After evaporation of the solvent, the residue is neutralized by the addition of sodium bicarbonate and extraction is carried out twice with methylene chloride. The organic phase is dried over magnesium sulfate and chromatographed on a silica column by elution with a methylene chloride/methanol mixture (95/5 vol/vol).

reactant | N-benzoyl-N'-(morpholinoethyl)thiourea | 3.66 g | C(C1=CC=CC=C1)(=O)NC(=S)NCCN1CCOCC1 | C14H19N3O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | 2-bromo-1,2,3,4-tetrahydronaphthalen-1-one | 3 g | BrC1C(C2=CC=CC=C2CC1)=O | C10H9BrO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(2-Morpholinoethylamino)-4,5-dihydronaphtho[1,2-d]thiazole dihydrochloride | Cl.Cl.O1CCN(CC1)CCNC=1SC2=C(N1)C1=CC=CC=C1CC2 | InChI=1S/C17H21N3OS.2ClH/c1-2-4-14-13(3-1)5-6-15-16(14)19-17(22-15)18-7-8-20-9-11-21-12-10-20;;/h1-4H,5-12H2,(H,18,19);2*1H
